US04388243
(1) Synthesis of 1α,3β-diacetoxycholesta-5,7-diene
A soluton of 1α,3β-diacetoxycholest-5-ene (972 mg, 2 m moles), dry hexane (15 ml) and 1,3-dibromo-5,5-dimethyl hydantoin (343 mg, 1.2 m moles) was reacted at the oil bath temperature of 95° C. under the irradiation of infrared rays for 15 minutes. The reaction mixture was cooled, and the resulting 5,5-dimethyl hydantoin and the excessive 1,3-dibromo-5,5-dimethylhydantoin were removed by filtration. The filtrate was concentrated at reduced pressure to afford a residual product. Xylene (6 ml) was added to this substance to form a solution. The resulting solution was added dropwise to a solution held at 170° C. of s-collidine (5 ml) in dry xylene (6 ml), and the reaction was carried out for additional 20 minutes. After the reaction, the hydrobromide of s-collidine was removed by filtration and filtrate was concentrated under reduced pressure to give residual product. The residue was dissolved in ethyl acetate (30 ml). The ethyl acetate solution was washed with 1 N hydrochloric acid (2×10 ml), saturated sodium bicarbonate and water, and dried over anhydrous sodium sulfate. The drying agent was removed by filtration and the filtrate was concentrated under reduced pressure to give 908 mg of residual product.

reactant | 1α,3β-diacetoxycholest-5-ene | 972 mg | C(C)(=O)O[C@H]1C[C@@H](CC2=CC[C@H]3[C@@H]4CC[C@H]([C@@H](CCCC(C)C)C)[C@]4(CC[C@@H]3[C@@]12C)C)OC(C)=O | C31H50O4
reactant | hexane | 15 ml | CCCCCC | C6H14
reactant | 1,3-dibromo-5,5-dimethyl hydantoin | 343 mg | BrN1C(=O)N(C(=O)C1(C)C)Br | C5H6Br2N2O2
reactant | s-collidine | 5 ml | CC1=CC(=NC(=C1)C)C | C8H11N
solvent | xylene | 6 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
solvent | Xylene | 6 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 1α,3β-diacetoxycholesta-5,7-diene | 908 mg | C(C)(=O)O[C@H]1C[C@@H](CC2=CC=C3[C@@H]4CC[C@H]([C@@H](CCCC(C)C)C)[C@]4(CC[C@@H]3[C@@]12C)C)OC(C)=O | C31H48O4
